US05342846
5-Amino-1-cyclopropyl-6,8-difluoro-7-[3-(1,2,3-triazol-1-yl)piperidin-1-yl]-1,4-dihydro-4-oxoquinoline-3-carboxylic acid
3-(1,2,3-triazol-1-yl)pyridine hydrochloride (63 mg, 0.33 mmol) and DBU (77 mg, 0.5 mmol) were added to a suspension of 5-amino-1-cyclopropyl-6,7,8-trifluoro-1,4-dihydro-4-oxo-quinoline-3-carboxylic acid (50 mg, 0.18 mmol) in acetonitrile (5 ml). The reaction mixture was refluxed for 48 hrs and then concentrated under vacuo. The residue was diluted with water and thus separated solid was filtered, washed with water, acetonitrile and dried to give 30 mg of desired product. m.p. 252-254° C.; 1H NMR (TFA) δ: 9.36 (s, 1H), 8.65 (s, 1H), 8.53 (s, 1H), 5.28 (m, 1H), 3.60-4.66 (m, 5H), 2.10-2.58 (m, 4H), 1.32-1.68 (m, 4H).

reactant | 3-(1,2,3-triazol-1-yl)pyridine hydrochloride | 0.33 mmol, 63 mg | Cl.N1(N=NC=C1)C=1C=NC=CC1
reactant | DBU | 0.5 mmol, 77 mg | C1CCC2=NCCCN2CC1 | C9H16N2
reactant | 5-amino-1-cyclopropyl-6,7,8-trifluoro-1,4-dihydro-4-oxo-quinoline-3-carboxylic acid | 0.18 mmol, 50 mg | NC1=C2C(C(=CN(C2=C(C(=C1F)F)F)C1CC1)C(=O)O)=O | C13H9F3N2O3
solvent | acetonitrile | 5 ml | C(C)#N | C2H3N
product | 5-Amino-1-cyclopropyl-6,8-difluoro-7-[3-(1,2,3-triazol-1-yl)piperidin-1-yl]-1,4-dihydro-4-oxoquinoline-3-carboxylic acid | 30 mg | NC1=C2C(C(=CN(C2=C(C(=C1F)N1CC(CCC1)N1N=NC=C1)F)C1CC1)C(=O)O)=O | C20H20F2N6O3
